US05440041
A solution of (1-(9-decenyl)-3,7-dimethylxanthine (3.2 g, 10.1 mmol)), 4-methylmorpholine-N-oxide (1.41 g, 12 mmol) and OsO4 (3 drops of a 2.5% solution by weight in tBuOH) in acetone (40 ml) and water (10 ml) was stirred for 24 hrs. A saturated solution of sodium dithionite (5 ml) was added to the reaction mixture which was then stirred for 15 min. The reaction mixture was extracted with 25 % EtOH/dichloromethane (4×50 ml). The organic layers were combined, dried with sodium sulfate and evaporated to a white solid which was recrystalized in ethanol to give 1-(9,10-dihydroxydecyl)-3,7-dimethylxanthine (3.30 g, 93% yield).

reactant | 1-(9-decenyl)-3,7-dimethylxanthine | 10.1 mmol, 3.2 g | C(CCCCCCCC=C)N1C(=O)N(C=2N=CN(C2C1=O)C)C | C17H26N4O2
reactant | 4-methylmorpholine-N-oxide | 12 mmol, 1.41 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | water | 10 ml | O | H2O
reactant | sodium dithionite | 5 ml | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | tBuOH | CC(C)(C)O | C4H10O
solvent | acetone | 40 ml | CC(=O)C | C3H6O
catalyst | OsO4 | O=[Os](=O)(=O)=O
product | 1-(9,10-dihydroxydecyl)-3,7-dimethylxanthine | 3.30 g, 93% yield | OC(CCCCCCCCN1C(=O)N(C=2N=CN(C2C1=O)C)C)CO | C17H28N4O4
